US08530663B2
A solution of 4-bromothiophene-3-carboxylic acid methyl ester (500 mg, 2.3 mmol, 1.0 eq.) in THF (40 mL) was combined with 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (0.7 g, 2.3 mmol, 1 eq.) under nitrogen. A solution of Na2CO3 (960 mg) in water (4.5 mL) was added, followed by the addition of PdCl2(PPh3)2 (80 mg, 0.1 mmol, 0.4 eq.). The resulting solution was stirred for 18 hours while the temperature was maintained at reflux in an oil bath. The resulting solution was diluted with EtOAc (50 mL), then washed with saturated aqueous NaCl (2×100 mL). The organic layer was concentrated and the residue was applied onto a silica gel column and eluted with EtOAc/PE (1:30) to yield 4-(4-methoxycarbonylthiophen-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (0.4 g) as a light yellow oil.

reactant | 4-bromothiophene-3-carboxylic acid methyl ester | 2.3 mmol, 500 mg, 1.0 eq. | COC(=O)C1=CSC=C1Br | C6H5BrO2S
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 2.3 mmol, 0.7 g, 1 eq. | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | Na2CO3 | 960 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 4.5 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.1 mmol, 80 mg, 0.4 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-methoxycarbonylthiophen-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 0.4 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CSC=C1C(=O)OC | C16H21NO4S
